*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0025120D Spice Library Beta Version
****	Version 1.0 Date: 11-28-2016
****	Version 2.0 Date: 01-22-2018
****	Version 3.0 Date: 06-19-2018
***********************************************************
****	Revision record
****	Version Beta	Initial Release
****	Version 1	Included model number at subcircuit to avoid library overlapping when two Modfet models called
****	Version 2	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 3	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

.subckt C2M0025120D d g s Tj Tc

xgmos	d1 g1 s1 Tj Tc gmos_C2M0025120D 
Ls 		s	s1	9n
R_Ls 		s	s1      10

Rg 		g1	g2	1.1
Lg 		g	g3	15n
R_Lg		g	g3	10
Rgg		g1	s1	1E6

Ld 		d	d3      6n
R_Ld		d	d3	10

G1		d2	d1      Value {(V(d2,d1))/((0.0000007714*((V(Tj))**2)+0.0000978571*(V(Tj))+0.0231428571)+1n)}
R_A		d2	d1	1E6
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d2	g1	cgdmos_C2M0025120D 
CGS		g1	s1	2825.325p
CDS		d2	s1	70p
D1		s1	d2	bodydiode_C2M0025120D
D2		s1	d2	bodydiode_C2M0025120D
D3		s1	d2	bodydiode_C2M0025120D
R0 N1 Tj 4.4m
R1 N2 N1 4.4m
R2 N3 N2 19.1m
R3 N4 N3 19.7m
R4 N5 N4 28.8m
R5 N6 N5 25.2m
R6 N7 N6 17.5m
R7 N8 N7 18.2m
R8 N9 N8 25.9m
R9 N10 N9 34.5m
R10 N11 N10 26.9m
R11 N12 N11 10m
R12 N13 N12 2.88m
R13 Tc N13 0.183m
C0 Tj 0 1.32m
C1 N1 0 1.1m
C2 N2 0 5.02m
C3 N3 0 8.95m
C4 N4 0 8.04m
C5 N5 0 10m
C6 N6 0 21.9m
C7 N7 0 47.3m
C8 N8 0 65.1m
C9 N9 0 68.9m
C10 N10 0 88.9m
C11 N11 0 0.291
C12 N12 0 5.78
C13 N13 0 1.29m

.ends C2M0025120D 
*****************************************

.subckt gmos_C2M0025120D d1 g1 s1 Tj Tc

.param Adj = 0.55
e2		NET1	0	Value {(-0.0237528571*(V(Tj))+26.30875)}
R_B		NET1	0 	1E12

e3		NET2	0	Value {((0.0000290194*((V(Tj))**2)-0.0144927440*(V(Tj))+6.6778449647)*Adj)}
R_C		NET2	0 	1E12

.param p3  = 13
.param p4  = 0.0257											
.param p5  = 2.2
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g2 s1	1e9
E100 g2 s1 	value {limit(V(g1,s1),p11,p12)} 

G1 d1 s1 value {
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value {
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}



.ends gmos_C2M0025120D
****************************************

.model bodydiode_C2M0025120D d(is=1.2e-12 cjo=842.1649p bv=1600 m=0.58729 EG=3.26 vj=3.82 n=3.9 
+	rs=0.02  trs1=-0.0047035655  trs2=0.0000227057 Tnom=25
+	tt=15n ibv=500u Xti=12 level=1)
****************************************

.subckt cgdmos_C2M0025120D d2 g1
.param k1=1702.69p
.param k2=0.545
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d2,g1),0,500))*(1+ka*(1+TANH(kb*V(d2,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d2))
+			}
R_CGD d1 d2 1e-3

.ends cgdmos_C2M0025120D
***************************************
                               